US08703810B2
A mixture of (3R)-1-((2S)-1-(4-(3-(4-bromophenyl)-4-methyl-6-((tetrahydro-2H-pyran-2-yl)oxy)-2H-chromen-2-yl)phenoxy)propan-2-yl)-3-methylpyrrolidine (32 mg, 0.052 mmol; intermediate from the synthesis of Example 54), sodium methanesulfinate (12 mg, 0.118 mmol), copper iodide (11 mg, 0.058 mmol), DL-proline (12 mg, 0.104 mmol), and sodium hydroxide (5 mg, 0.125 mmol) in DMSO (0.5 mL) was heated at 95° C. overnight. The reaction mixture was diluted with ethyl acetate (20 mL), washed (50 mL sat'd NaHCO3, 50 mL brine), and dried (Na2SO4). The solvent was removed under reduced pressure, and the residue was stirred in 80% AcOH/water (0.5 mL) overnight at room temperature. The solvent was removed under reduced pressure, and the residue was purified by reverse-phase HPLC to give 4-methyl-2-(4-((S)-2-((R)-3-methylpyrrolidin-1-yl)propoxy)phenyl)-3-(4-(methylsulfonyl)phenyl)-2H-chromen-6-ol. 1H NMR (DMSO-d6; TFA salt): δ 11.60 (br, 1H), 7.93 (d, 2H), 7.62 (d, 2H), 7.34 (d, 2H), 6.92 (d, 1H), 6.83 (d, 2H), 6.64 (dd, 1H), 6.60 (br, 1H), 6.56 (d, 1H), 6.00 (s, 1H), 3.84 (m, 2H), 3.60 (m, 1H), 3.36 (m, 1H), 3.13 (s, 3H), 2.93 (m, 1H), 2.50 (m, 2H), 2.23 (m, 2H), 2.13 (s, 3H), 1.70 (m, 1H), 1.54 (m, 3H), 1.11 (m, 3H); LCMS: 534.9 (M+H)+.

reactant | (3R)-1-((2S)-1-(4-(3-(4-bromophenyl)-4-methyl-6-((tetrahydro-2H-pyran-2-yl)oxy)-2H-chromen-2-yl)phenoxy)propan-2-yl)-3-methylpyrrolidine | BrC1=CC=C(C=C1)C=1C(OC2=CC=C(C=C2C1C)OC1OCCCC1)C1=CC=C(OC[C@H](C)N2C[C@@H](CC2)C)C=C1 | C35H40BrNO4
reactant | sodium methanesulfinate | 0.118 mmol, 12 mg | CS(=O)[O-].[Na+]
reactant | DL-proline | 0.104 mmol, 12 mg | N1C(C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydroxide | 0.125 mmol, 5 mg | [OH-].[Na+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.058 mmol, 11 mg | [Cu](I)I
product | 4-methyl-2-(4-((S)-2-((R)-3-methylpyrrolidin-1-yl)propoxy)phenyl)-3-(4-(methylsulfonyl)phenyl)-2H-chromen-6-ol | CC1=C(C(OC2=CC=C(C=C12)O)C1=CC=C(C=C1)OC[C@H](C)N1C[C@@H](CC1)C)C1=CC=C(C=C1)S(=O)(=O)C | C31H35NO5S
